US05712300
Preparation of α-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-N-hydroxy-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide
A mixture of N-benzyloxy-α-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide (58 mg, 0.10 mmol) and 5% Pd/C (20 mg) is stirred for 1.5 hours at room temperature under an atmosphere of hydrogen. Palladium hydroxide on carbon (10 mg) is added and the mixture is stirred under hydrogen at room temperature for 6 hours. The mixture is filtered and the filtrate is concentrated. Purification by column chromatography (5% MeOH/EtOAc) gives 39 mg of an oil which is crystallized from EtOAc/hexane to give 29 mg (59%) of the title compound as a white solid (mp 158°-159° C.).

reactant | N-benzyloxy-α-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 0.10 mmol, 58 mg | C(C1=CC=CC=C1)ONC(C(C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C)CCN1C(C2=CC=CC=C2C1=O)=O)=O | C35H39N3O5
catalyst | Pd/C | 20 mg | [Pd] | Pd
catalyst | Palladium hydroxide on carbon | 10 mg | [OH-].[OH-].[Pd+2]
product | α-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-N-hydroxy-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 39 mg | O=C1N(C(C2=CC=CC=C12)=O)CCC(C(=O)NO)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C28H33N3O5
